US08182718B2
Hff=Di-tert-butylphosphine oxide
To a flask were added 1.0 g of di(tert-butyl)chlorophosphine and 5 ml of dichloromethane under nitrogen. After slow addition of 0.25 g of water, the mixture was stirred at 22 C for 30 minutes and the solvent was removed leaving a solid. After purification by sublimation, 0.9 g of a white solid was obtained.

reactant | di(tert-butyl)chlorophosphine | 1.0 g | C(C)(C)(C)P(Cl)C(C)(C)C | C8H18ClP
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | water | 0.25 g | O | H2O
product | Di-tert-butylphosphine oxide | 0.9 g | C(C)(C)(C)P(C(C)(C)C)=O | C8H19OP
